US06310243B1
a. 5-(3-Acetoxy-2,2-diacetoxymethyl-propionylamino)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (1.05 g, 1.43 mmol) was dissolved in dimethylacetamide (2 ml) and added to trisacetoxymethylacetyl chloride (2.17 g, 7.4 mmol). The mixture was stirred at 60° C. for 5 days, and after cooling the mixture was added to an aqueous solution of sodium hydrogen carbonate (60 ml, 2%). The precipitate formed was filtered off and dissolved in chloroform (90 ml). The organic phase was washed with water (4×40 ml), dried (Na2SO4), and the solvent evaporated. A semisolid residue (1.16 g) was left, which according to MS analysis consisted of the two compounds: 5-(3-Acetoxy-2,2-diacetoxymethyl-propionylamino)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide with MS (ESP, m/e): 1002 ([M]+, 100%) and 5-acetamido-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide with

reactant | 5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 1.43 mmol, 1.05 g | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C17H19I3N2O7
reactant | trisacetoxymethylacetyl chloride | 7.4 mmol, 2.17 g | C(C)(=O)OCC(C(=O)Cl)(COC(C)=O)COC(C)=O | C11H15ClO7
reactant | sodium hydrogen carbonate | 60 ml | C(O)([O-])=O.[Na+]
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | 5-(3-Acetoxy-2,2-diacetoxymethyl-propionylamino)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | C(C)(=O)OCC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I)(COC(C)=O)COC(C)=O | C28H33I3N2O14
